US04924021
607 g (3 mol) of 2-allyl-5-trifluoromethylphenol as a solution in 600 ml of perchlorethylene was reacted with 1626 g (12 mol) of trichlorosilane to form 2-allyl-5-trifluoromethylphenoxydichlorosilane. BP/1 103 to 105° C.

reactant | 2-allyl-5-trifluoromethylphenol | 3 mol, 607 g | C(C=C)C1=C(C=C(C=C1)C(F)(F)F)O | C10H9F3O
reactant | trichlorosilane | 12 mol, 1626 g | Cl[SiH](Cl)Cl | Cl3HSi
solvent | perchlorethylene | 600 ml | ClC(=C(Cl)Cl)Cl | C2Cl4
product | 2-allyl-5-trifluoromethylphenoxydichlorosilane | C(C=C)C1=C(O[SiH](Cl)Cl)C=C(C=C1)C(F)(F)F | C10H9Cl2F3OSi
